US04720585
(E) (1S)-[3-Oxo- 2-[[(4-methoxyphenyl)methyl]thio]1-(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester
A mixture of t-butanol (167 mg, 1.05 eq), 1,1,1-triacetoxy-2,1-benoxiodol-3(3H)-one (954 mg, 1.05 eq) and dry methylene chloride (8 ml) was stirred under argon at room temperature for 15 minutes. The mixture was then treated with a solution of (1S)-[3-hydroxy-2-[[(4-methoxyphenyl)methyl]thio]-1-(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester (890 mg, 2.14 mmol) and dichloromethane (8 ml). After stirring for 15 minutes, the reaction was diluted with ether and poured into 1N sodium bicarbonate containing a seven-fold excess of sodium thiosulfate (3.9 g, 15.75 mmol). The mixture was stirred until all solids dissolved. The layers were separated and the organic phase washed with 1N sodium bicarbonate, water and brine. Drying over anhydrous magnesium sulfate and removal of solvent yielded the title compound as a pale yellow solid: 860 mg (2.08 mmol); Rf =0.75 (silica gel, benzene: ethyl acetate, 4:1).

reactant | t-butanol | 167 mg, 1.05 eq | C(C)(C)(C)O | C4H10O
reactant | (1S)-[3-hydroxy-2-[[(4-methoxyphenyl)methyl]thio]-1-(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester | 2.14 mmol, 890 mg | OCC([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)SCC1=CC=C(C=C1)OC | C23H31NO4S
reactant | sodium bicarbonate | 1N | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 15.75 mmol, 3.9 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | (1S)-[3-Oxo- 2-[[(4-methoxyphenyl)methyl]thio]1-(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester | O=CC([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)SCC1=CC=C(C=C1)OC | C23H29NO4S
